US07259159B2
1c) (2S)-2-Benzyloxycarbonylamino-3-{9-[3-(1,4,5,6-tetrahydro-pyrimidin-2-ylcarbamoyl)-propyl]-9H-purin-6-ylamino}-propionic acid tert-butyl ester
200 mg (0.38 mmol) of 4-[6-((2S)-2-benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethylamino)-purin-9-yl]-butyric acid ethyl ester was dissolved in 2 ml of dimethylformamide and 188 mg (1.9 mmol) of 1,4,5,6-tetrahydro-pyrimidin-2-ylamine was added. The solution was stirred at room temperature for 16 hours. The solvent was removed in vacuo, the residue was dissolved in dichloromethane and the solution was washed twice with 10% aqueous citric acid solution and twice with water. Product in the combined aqueous phase was extracted five times with dichloromethane. The combined organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with dichloromethane/methanol (10/1), followed by DCM/AcOH/water (85:15:1.5:1.5). Yield: 70.6 mg.

reactant | 4-[6-((2S)-2-benzyloxycarbonylamino-2-tert-butoxycarbonyl-ethylamino)-purin-9-yl]-butyric acid ethyl ester | 0.38 mmol, 200 mg | C(C)OC(CCCN1C2=NC=NC(=C2N=C1)NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C26H34N6O6
reactant | 1,4,5,6-tetrahydro-pyrimidin-2-ylamine | 1.9 mmol, 188 mg | N1C(=NCCC1)N | C4H9N3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2S)-2-Benzyloxycarbonylamino-3-{9-[3-(1,4,5,6-tetrahydro-pyrimidin-2-ylcarbamoyl)-propyl]-9H-purin-6-ylamino}-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CNC1=C2N=CN(C2=NC=N1)CCCC(NC=1NCCCN1)=O)NC(=O)OCC1=CC=CC=C1)=O | C28H37N9O5
